US08703810B2
Step 1: Methyl 2-(3-methoxy-4-(trifluoromethyl)phenyl)acetate
To a solution of 2-(3-methoxy-4-(trifluoromethyl)phenyl)acetic acid (17.0 g, 72.6 mmol) in MeOH (200 mL), thionyl chloride (10 mL, 141 mmol) was added dropwise. The resulting mixture was stirred at room temperature for 16 h and concentrated under vacuum to afford the title compound (18.8 g). 1H NMR (DMSO-d6): δ 7.49 (s, 1H), 7.40 (d, 1H), 6.96 (d, 1H), 3.87 (s, 3H), 3.68 (s, 3H), 3.64-3.58 (m, 2H).

reactant | 2-(3-methoxy-4-(trifluoromethyl)phenyl)acetic acid | 72.6 mmol, 17.0 g | COC=1C=C(C=CC1C(F)(F)F)CC(=O)O | C10H9F3O3
reactant | thionyl chloride | 141 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 2-(3-methoxy-4-(trifluoromethyl)phenyl)acetate | 18.8 g | COC=1C=C(C=CC1C(F)(F)F)CC(=O)OC | C11H11F3O3
